US08541576B2
To a solution of 1-(2-chloroethyl)-8-(methylsulfanyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide (50 mg 0.15 mmol) in methanol (3 ml), N-methylpiperazine (62 μl, 0.61 mmol) and cesium carbonate (97 mg, 0.3 mmol), were added. The resulting mixture was heated at 60° C. for 48 hours. The volatiles were removed under vacuum, the crude solid was dissolved with ethyl acetate and water, the organic layer was washed with brine, dried over Na2SO4 and concentrated. The crude was purified by silica gel chromatography (DCM/EtOAc 8/2) to give the compound 1-ethenyl-8-(methylsulfanyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide as a yellow solid (15 mg 35% yield). LC/MS (254 nm) HPLC method 2 Rt 5.34 min. 1H NMR (401 MHz, DMSO-d6) δ 8.58 (s, 1H), 8.35 (dd, J=8.73, 15.44 Hz, 1H), 7.71 (s, 1H), 7.46 (br. s., 1H), 5.96 (d, J=15.38 Hz, 1H), 5.15 (d, J=8.67 Hz, 1H), 3.00-3.09 (m, 2H), 2.86-2.94 (m, 2H), 2.56 (s, 3H). HRMS (ESI) calcd for C13H13N5OS [M+H]+ 288.0914 found 288.0913.

reactant | 1-(2-chloroethyl)-8-(methylsulfanyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 0.15 mmol, 50 mg | ClCCN1N=C(C=2CCC=3C=NC(=NC3C21)SC)C(=O)N | C13H14ClN5OS
reactant | N-methylpiperazine | 0.61 mmol, 62 μl | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | 0.3 mmol, 97 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 3 ml | CO | CH4O
product | 1-ethenyl-8-(methylsulfanyl)-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxamide | 35% yield | C(=C)N1N=C(C=2CCC=3C=NC(=NC3C21)SC)C(=O)N | C13H13N5OS
